US07786132B2
(i) tert-Butyl 1-((benzo[b]thiophen-5-yloxy)methyl)pyrrolidine-2-carboxylate
Polymer supported triphenyl phosphine (5.12 g, 13.32 mmol, 2.6 mmol/g loading) was suspended in dichloromethane (15 mL) cooled to 0° C. in an ice/water bath. Diisopropyl azodicarboxylate (2.69 g, 13.3 mmol, 2.6 mL) was added dropwise and the mixture was stirred for 10 min. A solution of benzo[b]thiophen-5-ol (1.20 g, 7.99 mmol) and (S)-tert-butyl-2-(hydroxymethyl)pyrrolidine-1-carboxylate (1.34 g, 6.66 mmol) dissolved in dichloromethane (20 mL) was added dropwise at 0° C. The cooling bath was removed, triethylamine (1.35 g, 13.3 mmol) was added, and the mixture was stirred for 16 h. The polymer bound triphenylphosphine was removed by filtration and washed with dichloromethane (3×10 mL). The organic layer was separated, dried over sodium sulfate (200 mg), filtered through a coarse frit (to remove the sodium sulfate), and condensed in vacuo to give a white solid (2.3 g). The crude product was purified by flash chromatography (EtOAc/hexane 1:1) to yield the title compound as a white solid (1.95 g, 55%). MS (M+H)+ 334.

reactant | triphenyl phosphine | 13.32 mmol, 5.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 13.3 mmol, 2.6 mL, 2.69 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | benzo[b]thiophen-5-ol | 7.99 mmol, 1.20 g | S1C2=C(C=C1)C=C(C=C2)O | C8H6OS
reactant | (S)-tert-butyl-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 6.66 mmol, 1.34 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO | C10H19NO3
reactant | triethylamine | 13.3 mmol, 1.35 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl 1-((benzo[b]thiophen-5-yloxy)methyl)pyrrolidine-2-carboxylate | 2.3 g | S1C2=C(C=C1)C=C(C=C2)OCN2C(CCC2)C(=O)OC(C)(C)C | C18H23NO3S
